US03970653
Preparation of Trisodium α-Dodecyloxy-β-Sulfosuccinate
Sulfomaleic anhydride (10 gm) is mixed with 80 gm (0.45 mole) of n-dodecanol and heated at 100°C for 14 hours. A solution of 7.04 gm of sodium hydroxide in 50 ml water is then added and the mixture heated at 60°C for 2 hours. The heated mixture is then extracted three times with 300 cc portions of acetone (at reflux) and the acetone insoluble fraction is then filtered, washed with additional acetone and dried to give 16.2 gm of the title compound (structure confirmed by NMR and ion exchange of a sample followed by titration with standard sodium hydroxide: neutralization equivalent: found 147.0, theory 149.3).

reactant | Sulfomaleic anhydride | 10 gm | S(=O)(=O)(O)/C=1/C(=O)OC(\C1)=O | C4H2O6S
reactant | n-dodecanol | 0.45 mole, 80 gm | C(CCCCCCCCCCC)O | C12H26O
reactant | sodium hydroxide | 7.04 gm | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | Trisodium α-Dodecyloxy-β-Sulfosuccinate | 16.2 gm | C(CCCCCCCCCCC)OC(C(=O)[O-])C(C(=O)[O-])S(=O)(=O)O.[Na+].[Na+].[Na+] | InChI=1S/C16H30O8S.3Na/c1-2-3-4-5-6-7-8-9-10-11-12-24-13(15(17)18)14(16(19)20)25(21,22)23;;;/h13-14H,2-12H2,1H3,(H,17,18)(H,19,20)(H,21,22,23);;;/q;3*+1/p-2
